US06518423B1
4-[(3-Chloropyrazin-2-yl)thio]-3-nitrobenzyl alcohol
1.876 g of 4-chloro-3-nitrobenzyl alcohol was dissolved in 20 ml of dimethyl sulfoxide. After adding 820 mg of anhydrous sodium sulfide, the resulting mixture was stirred at room temperature for 15 hours. After adding 1.19 g of 2,3-dichloropyrazine thereto, the reaction mixture was stirred at 100° C. for 1 hour. After adding ice/water, the reaction mixture was extracted with ethyl acetate, washed successively with water, 1 N hydrochloric acid, water, 1 N sodium hydroxide, and a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with ethyl acetate/n-hexane) to thereby give 1.60 g of the title compound as yellow crystals.

reactant | 4-chloro-3-nitrobenzyl alcohol | 1.876 g | ClC1=C(C=C(CO)C=C1)[N+](=O)[O-] | C7H6ClNO3
reactant | sodium sulfide | 820 mg | [S-2].[Na+].[Na+]
reactant | 2,3-dichloropyrazine | 1.19 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 4-[(3-Chloropyrazin-2-yl)thio]-3-nitrobenzyl alcohol | 1.60 g | ClC=1C(=NC=CN1)SC1=C(C=C(CO)C=C1)[N+](=O)[O-] | C11H8ClN3O3S
